US06685995B1
Trifluoroacetylbenzotriazole in an amount of 7.0 g (33 mmol) was dissolved in 70 ml of THF, 5.0 g (20 mmol) of 2-(4-(4-propylcyclohexyl)cyclohexyl)ethanol was added thereto, they were refluxed for 1 hour, and then the solvent was distilled off. After the residue was purified by column chromatography on silica gel (eluent: heptane/ethyl acetate=5/1), the solvent was distilled off, and the residue was subjected twice to recrystallization by using heptane to give 2.9 g (8.3 mmol) of trifluoroacetic acid 2-(4-(4-propylcyclohexyl)cyclohexyl)-ethyl ester. Yield of this compound based on 2-(4-(4-propylcyclohexyl)cyclohexyl)ethanol was 42%.

reactant | Trifluoroacetylbenzotriazole | FC(C(=O)C1=CC=CC=2NN=NC21)(F)F | C8H4F3N3O
reactant | 2-(4-(4-propylcyclohexyl)cyclohexyl)ethanol | 20 mmol, 5.0 g | C(CC)C1CCC(CC1)C1CCC(CC1)CCO | C17H32O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | trifluoroacetic acid 2-(4-(4-propylcyclohexyl)cyclohexyl)-ethyl ester | 8.3 mmol, 2.9 g | C(CC)C1CCC(CC1)C1CCC(CC1)CCOC(C(F)(F)F)=O | C19H31F3O2
